US08076374B2
Step A. 4-[1-Allyl-1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-yloxymethyl)-but-3-enyl]-benzoic acid
A solution of 4-[1-allyl-1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-yloxymethyl)-but-3-enyl]-benzoic acid methyl ester (0.386 g, 0.758 mmol) in THF (8.0 mL) is treated with 1N LiOH (8.0 mL, 8.0 mmol), warmed to 70° C., and stirred overnight. The reaction mixture is cooled to room temperature, acidified with 1N HCl (9.0 mL), and extracted with EtOAc (3×20 mL). The combined extracts are dried over MgSO4, filtered, and concentrated to provide 0.356 g (95%) of the title compound as a white foam. MS (ES): 493.3 [M−H]−.

reactant | 4-[1-allyl-1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-yloxymethyl)-but-3-enyl]-benzoic acid methyl ester | 0.758 mmol, 0.386 g | COC(C1=CC=C(C=C1)C(CC=C)(COC1=CC(=C(C(=C1)C)C1=CC=C(C=C1)C(F)(F)F)C)CC=C)=O | C31H31F3O3
reactant | LiOH | 8.0 mmol, 1N, 8.0 mL | [Li+].[OH-]
reactant | HCl | 1N, 9.0 mL | Cl | ClH
solvent | THF | 8.0 mL | C1CCOC1 | C4H8O
product | 4-[1-Allyl-1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-yloxymethyl)-but-3-enyl]-benzoic acid | 0.356 g, 95% | C(C=C)C(CC=C)(COC1=CC(=C(C(=C1)C)C1=CC=C(C=C1)C(F)(F)F)C)C1=CC=C(C(=O)O)C=C1 | C30H29F3O3
